US03953460
When 4-bromo-5-[(2-aminoethyl)thiomethyl]imidazole (from the dihydrobromide (4.8 g)) is reacted with 1-nitro-2,2-bis-methylthioethylene (2.0 g) according to the procedure of Example 4(i) and the resultant 1-nitro-2-methylthio-2- 2-((4-bromo-5-imidazolyl)methylthio)ethylamino ethylene treated with methlyamine by the procedure of Example 3(ii) there is produced 1-nitro-2-methylamino-2-[2-((4-bromo-5-imidazolyl)methylthio)ethylamino] ethylene.

reactant | 4-bromo-5-[(2-aminoethyl)thiomethyl]imidazole | BrC=1N=CNC1CSCCN | C6H10BrN3S
reactant | 1-nitro-2,2-bis-methylthioethylene | 2.0 g | [N+](=O)([O-])C=C(SC)SC | C4H7NO2S2
reactant | methlyamine | CN | CH5N
product | 1-nitro-2-methylamino-2-[2-((4-bromo-5-imidazolyl)methylthio)ethylamino] ethylene | [N+](=O)([O-])C=C(NCCSCC1=C(N=CN1)Br)NC | C9H14BrN5O2S
